US07344702B2
Synthesis of 4-[4-(2-Hydroxyethyl)phenyl]-4-oxo-butyric acid methyl ester
To a dry 250 mL flask under a nitrogen atmosphere was added phenethyl alcohol (2.50 g, 0.02 mol), anhydrous dichloromethane (150 mL), and methyl-4-chloro-4-oxobutyrate (6.02 g, 0.04 mol). The contents of the flask were cooled to 0° C. with an ice bath. To the solution was added aluminum chloride (25 g, 0.2 mol) in portions being careful to avoid a violent exotherm. The resulting yellowish mixture was stirred for 3 hours. At this point the reaction was quenched with ice water. The mixture was diluted with dichloromethane and transferred to a separatory funnel. The organic layer was washed with a saturated solution of sodium bicarbonate, brine and then dried over magnesium sulfate. Filtration and concentration of the filtrate under reduced pressure provided a crude yellow oil. The oil was suspended in anhydrous methanol (100 mL) and sodium metal was added to the mixture until a pH of 9 was obtained. The mixture was stirred for 3 hours. The volume was reduced and then diluted with ethyl acetate. The solution was transferred to a separatory funnel and washed with aqueous 0.05 N hydrochloric acid, brine and dried over magnesium sulfate. The solution was concentrated under reduced pressure to give a crude yellow oil with a mass of 5.88 g. Column chromatography [silica gel; eluent hexanes-ethyl acetate (3:2)] provided the desired product (2.69 g, 57%). 1H (CDCl3) δ(ppm): 2.65 (t, 2H); 2.81 (t, 2H); 3.19 (t, 2H); 3.6 (s, 3H); 3.75 (t, 2H); 7.22 (d, 2H); 7.81 (d, 2H). 13C (CDCl3) δ(ppm): 27.76, 33.03, 38.66, 51.52, 62.68, 127.97, 128.99, 134.47, 144.78, 173.21, 197.64.

reactant | phenethyl alcohol | 0.02 mol, 2.50 g | C(CC1=CC=CC=C1)O | C8H10O
reactant | methyl-4-chloro-4-oxobutyrate | 0.04 mol, 6.02 g | COC(CCC(=O)Cl)=O | C5H7ClO3
reactant | aluminum chloride | 0.2 mol, 25 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium | [Na] | Na
solvent | methanol | 100 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-[4-(2-Hydroxyethyl)phenyl]-4-oxo-butyric acid methyl ester | 2.69 g, 57% | COC(CCC(=O)C1=CC=C(C=C1)CCO)=O | C13H16O4
